US05972965
A mixture of 3-[3-(4,5-diphenyloxazol-2-yl)-3-hydroxy-2-(2-hydroxyethyl)propyl]-1-(t-butyldiphenylsilyloxy)benzene (1.3 g) and p-toluenesulfonic acid (100 mg) in toluene (20 ml) was stirred under reflux for 6 hours. The solution was washed with sat. NaHCO3 and brine, dried over MgSO4, and evaporated in vacuo to afford crude 2-(4,5-diphenyloxazol-2-yl)-3-(3-t-butyldiphenylsilyloxybenzyl)tetrahydrofuran (1-5 g).

reactant | 3-[3-(4,5-diphenyloxazol-2-yl)-3-hydroxy-2-(2-hydroxyethyl)propyl]-1-(t-butyldiphenylsilyloxy)benzene | 1.3 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C(C(CC=1C=C(C=CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCO)O | C42H43NO4Si
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4,5-diphenyloxazol-2-yl)-3-(3-t-butyldiphenylsilyloxybenzyl)tetrahydrofuran | 1-5 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1OCCC1CC1=CC(=CC=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C42H41NO3Si
